Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Trauma: pedestrian:

Right ribs ___ fractured  
Small subarrachnoid  
left inferior/superior ramus fracture  
Right Pulmonary contusion  
C7 Right TP non-displaced fracture  
Left external ear laceration  

 
Major Surgical or Invasive Procedure:
laceration right scalp
 
History of Present Illness:
This patient is a ___ year old male who complains of PED
STRUCK.
 
This patient is a ___ man who was a pedestrian
struck by a car. He was struck to his right side at
approximately 25 miles per hour. He was repetitive in his
questioning and had alcohol on his breath. The patient is
believed to have Alzheimer's disease and is unable to give
any medical history.
 

 
Past Medical History:
GERD  
L cochlear implant  
 
Social History:
___
Family History:
non-contributory  
 
Physical Exam:
PHYSICAL EXAMINATION:  upon admission: ___  
 
Temp: Reviewed HR: Reviewed BP: Reviewed Resp: Reviewed
O(2)Sat: Reviewed Low
 
Constitutional: The patient does not grimace or give other
external evidence of distress
HEENT: Left hemotympanum
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: No murmur
Abdominal: Soft, Nontender
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: Warm and dry
Neuro: No lateralizing motor findings, Speech fluent
Psych: Normal mood
___: No petechiae

On discharge: 98.4, 70, 123/68, 20, 95% RA
NAD, AAOx3
RRR
CTAB
Abd Soft, nontender, nondistended
Soft collar in place, neuro CN II-XII intact
 
Pertinent Results:
___ 02:45AM BLOOD WBC-11.5* RBC-4.48* Hgb-13.8* Hct-41.2 
MCV-92 MCH-30.9 MCHC-33.6 RDW-13.6 Plt ___
___ 08:25PM BLOOD WBC-12.2* RBC-5.01 Hgb-15.5 Hct-46.4 
MCV-93 MCH-30.9 MCHC-33.3 RDW-13.3 Plt ___
___ 02:45AM BLOOD Plt ___
___ 08:25PM BLOOD ___ PTT-22.5* ___
___ 02:45AM BLOOD Glucose-127* UreaN-18 Creat-1.0 Na-140 
K-4.4 Cl-108 HCO3-21* AnGap-15
___ 08:25PM BLOOD Lipase-88*
___ 02:45AM BLOOD Calcium-7.8* Phos-3.2 Mg-2.1
___ 08:25PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:35PM BLOOD Glucose-106* Lactate-2.9* Na-146* K-3.8 
Cl-108 calHCO3-21
___ 08:35PM BLOOD freeCa-1.11*

___:  cat scan of the head:

IMPRESSION: 
1.  Equivocal trace SAH in the right temporal lobe. 
2.  Small left subgaleal hematoma.  No definite fracture. 
3.  Fluid within the left external auditory canal in the region 
of patient's cochlear implant.  Given surgical hardware and 
artifact, assessment for superimposed traumatic injury is 
difficult.  Correlation with prior imaging and history is 
recommended.  ENT evaluation is recommended.  

___:  cat scan of abdomen and pelvis:

IMPRESSION: 
1.  Right-sided pulmonary contusions with tiny right apical 
pneumothorax. 
2.  Fractured ___ through ___ right-sided ribs  
3.  No traumatic injury within the abdomen. 
4.  Acute fracture of the left superior and inferior pubic rami 
with minimal surrounding hematoma. 
5.  Probable chronic obstruction of the left renal collecting 
system as 
evidenced by severe hydroureteronephrosis, distal obstructing 
stones within the left ureter and diffuse cortical thinning of 
the left kidney.  Numerous additional large calculi within the 
left collecting system.  Left mid ureter demonstrates wall 
thickening, which may be due to chronic obstruction.

___:  cat scan of the c-spine:

 IMPRESSION:   
1.  Non-displaced fracture of the right transverse process of C7 
(stable).  
2.  Right upper rib fractures and pulmonary contusion, tiny 
right pneumothorax 
better assessed on concurrent CT Torso.

___:  x-ray of the right elbow:

FINDINGS:  AP, lateral, oblique views of the right elbow were 
provided.  An IV is located in the antecubital fossa.  There is 
no fracture, dislocation, or joint effusion.  Bone 
mineralization is normal and no significant degenerative changes 
are present 

___:  x-ray of the right femur:

FINDINGS:  Three views of the right femur were provided.  The 
right femur 
appears intact.  Limited views of the right knee are normal.  
Vascular 
calcifications are intact.  The visualized portion of the right 
hemipelvis appears intact. 
  

___:  cat scan of the orbit:

IMPRESSION: 
1.  Non-displaced fracture through the posterior aspect of the 
left glenoid fossa and hypotympanum.  Soft tissue density in the 
hypotympanum and mastoid air cells may represent blood.  The 
incus and malleus appear intact, but the stapes is poorly seen. 
  
2.  Partial opacification of the right middle ear and right 
mastoid air cells, without evidence of a right temporal bone 
fracture, which could be 
inflammatory.  Please correlate clinically. 
  
___:  chest x-ray:

Thickening of the right apical pleural margin adjacent to upper 
rib fractures is a hematoma.  There also may be a small right 
pleural effusion or hemothorax layering in the lower chest.  
Mediastinal and pulmonary vascular engorgement probably reflect 
volume overload but there is no pulmonary edema.  No 
pneumothorax or appreciable lung contusion.  Normal mediastinal 
and hilar 
contours. 

___:  chest x-ray:

There are persistent low lung volumes.  Moderate cardiomegaly is 
stable.  The aorta is tortuous.  Diffuse opacities in the right 
lung and left lower lobe have increased in the left lower lobe.  
This could be due to worsening atelectasis.  There is probably a 
small left effusion.  Small right effusion is unchanged 

___:  x-ray of the pelvis:

The CT shows a fracture of both the superior and inferior left 
pubic rami.  It is visible on the supine film, alignment appears 
satisfactory.  Some elevation of the bladder is present, 
consistent with hematoma in this region 

___:  x-ray of the right clavicle:

No fracture.

  
  

  

 
Brief Hospital Course:
The patient was admitted to the hospital after he was struck by 
a motor vehicle. No loss of consciousness was reported.  The 
patient reported right sided chest tenderness. The patient was 
admitted to the intensive care unit for monitoring. Upon 
admission, he was made NPO, given intravenous fluids, and 
underwent imaging.  He was reported to have a left scalp 
laceration which was sutured in the emergency room.   A 
non-contrast head cat scan showed a small sub-arachnoid 
hemorrhage. He was evaluated by Neurosurgery and no 
neurosurgical intervention was indicated.  A cat scan of the 
torso showed right sided rib fractures ___ and a 
superior/inferior pubic ___ fracture.  Consultation was made 
wtih the orthopedic service who upon evaluation determined that 
no surgical intervention was needed. Incentive spirometry was 
encouraged and the patient's oxygen saturation was closely 
monitored.  The patient was placed on WBAT to bilateral lower 
extremities and physical therapy was ordered. After review of 
the c-spine, the patient was noted to have a right C7 
non-displaced transverse process fracture. A soft collar was 
applied to his neck for support.  After the patient's vital 
signs stabilized, he was transferred to the surgical floor on HD 
#3,

Upon review of his lab work, the patient was reported to have a 
urinary tract infection and was started on a 3 day course of 
ciprofloxacin which was completed on ___. During his hospital 
course, he was reported to have bouts of agitation, especially 
at night, and was placed on valium for potential alcohol 
withdrawal.  The valium dose was re-adjusted and discontinued on 
___ after the patient became more somnalent.   On HD #4, he 
began experiencing runs of rapid heart rate, later determined to 
be paroxysmal atrial fibrillation and he was subsequently 
started on intravenous metoprolol.  Upon discharge, his 
intraveous dose of metoprolol was converted to oral use and his 
heart rate normalized.  His electrolytes were monitored and 
cardiac enzymes were sent.  His cardiac enzymes were normal. 

 He has been tolerating a regular diet and has been voiding  
without difficulty. He was reported to be retaining urine and 
because of this was started on a 5 day course of flomax.  He was 
evaluated by physical therapy and recommendations were made for 
discharge to an extended care facility.  On HD #6, he was 
discharged in stable conditon.  Appointments for follow-up were 
made with Orthopedics, Spine, Audiology, and the acute care 
service.  Recommendations were made for follow-up with his 
primary care provider.   

   
 
Medications on Admission:
Galantamine 24mg QD, IC Omeprazole 20mg daily, Lisinopril 40mg 
QD, Vitamin D3 2000iu, Vitamin B12 1000mcg 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
3. Calcium Carbonate 500 mg PO QID:PRN heartburn 
4. Dexamethasone Ophthalmic Soln 0.1% 4 DROP LEFT EAR BID 
Duration: 7 Days 
5. FoLIC Acid 1 mg PO DAILY 
6. Heparin 5000 UNIT SC TID 
7. Ipratropium Bromide Neb 1 NEB IH Q6H 
8. Lisinopril 40 mg PO DAILY 
9. OLANZapine 10 mg PO HS:PRN agitation 
10. Omeprazole 20 mg PO DAILY 
11. Thiamine 100 mg PO DAILY Duration: 4 Days 
12. galantamine *NF* 12 mg Oral BID Reason for Ordering: Wish to 
maintain preadmission medication while hospitalized, as there is 
no acceptable substitute drug product available on formulary.
13. Docusate Sodium 100 mg PO BID 
14. Metoprolol Tartrate 12.5 mg PO BID 
hold for systolic blood pressure <110, hr <60 
15. Senna 1 TAB PO DAILY 
16. Tamsulosin 0.4 mg PO HS 
5 day course, last dose ___. Ciprofloxacin 0.3% Ophth Soln 4 DROP LEFT EAR BID Duration: 
7 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Trauma:  pedestrian struck:

Right ribs ___ fractured  
Small subarrachnoid  
left inferior/superior ramus fracture  
Right Pulmonary contusion  
C7 Right TP non-displaced fracture  
Left external ear laceration  

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after you were struck by a 
motor vehicle.  You sustained rigth sided rib fractures, a small 
bleed in your head, a small pelvic fracture, and fracture to one 
of the ___ structures in the neck. You were seen by the 
Orthopedic, Neurology, and spine service.  Fortunately, you did 
not require any surgery, but will need rehabilitation.  You have 
been cleared for discharge to the rehabilitation ___ to 
further regain your strenght and mobility.
 
Followup Instructions:
___